US07749997B2
(4-Phenylbicyclo[2.2.2]oct-1-yl)acetic acid
A solution of KOH (1.0 g, 17.52 mmol) in water (1.0 mL) was added to a suspension of (4-phenylbicyclo[2.2.2]oct-1-yl)acetonitrile (0.5 g) in ethylene glycol (10 mL) and the mixture stirred at 165° C. for 6 h, cooled, then poured in to water (100 mL). The mixture was acidified to pH 1 with conc. hydrochloric acid (˜0.5 mL) then extracted with ethyl acetate (100 mL then 30 mL). The combined extracts were washed with water (2×50 mL), dried (MgSO4) and concentrated down to give the title compound as a cream solid (0.5 g; 93%). 1H NMR (CDCl3) 1.57-1.69 (6H, m), 1.75-1.85 (6H, m), 2.12 (2H, s), 7.07-7.14 (1H, m), 7.19-7.28 (4H, m).

reactant | KOH | 17.52 mmol, 1.0 g | [OH-].[K+]
reactant | (4-phenylbicyclo[2.2.2]oct-1-yl)acetonitrile | 0.5 g | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CC#N | C16H19N
reactant | hydrochloric acid | ˜0.5 mL | Cl | ClH
reactant | water | 1.0 mL | O | H2O
reactant | water | 100 mL | O | H2O
solvent | ethylene glycol | 10 mL | C(CO)O | C2H6O2
product | (4-Phenylbicyclo[2.2.2]oct-1-yl)acetic acid | 0.5 g, 93% | C1(=CC=CC=C1)C12CCC(CC1)(CC2)CC(=O)O | C16H20O2
